US07351857B2
To 2-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)isoindole-1,3-dione (25.4 g; 86.5 mmol) dissolved in anhydrous DMF (200 mL) is added 1,4-diazabicyclo[2.2.2]octane (48.5 g; 4.32 mol) followed by dimethylaminothio-carbamoyl chloride (53.4 g; 4.32 mol) and the solution was stirred at RT for 4 h. The reaction is poured over ice-water (1 L) and stirred for 18 h. The precipitate was filtered, washed with H2O and dried under vacuo. The crude solid was purified by flash chromatography (SiO2) eluting with a hexanes-EtOAc gradient to afford 30 g (91%) of dimethylthiocarbamic acid -O-[6-(1,3-dioxo-1,3,-dihydroisoindol-2-yl)-5,6,7,8-tetrahydronaphthalen-2-yl] ester as a white solid.

reactant | 2-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)isoindole-1,3-dione | 86.5 mmol, 25.4 g | OC=1C=C2CCC(CC2=CC1)N1C(C2=CC=CC=C2C1=O)=O | C18H15NO3
reactant | 1,4-diazabicyclo[2.2.2]octane | 4.32 mol, 48.5 g | N12CCN(CC1)CC2 | C6H12N2
reactant | dimethylaminothio-carbamoyl chloride | 4.32 mol, 53.4 g | CN(C)NC(=S)Cl | C3H7ClN2S
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | dimethylthiocarbamic acid -O-[6-(1,3-dioxo-1,3,-dihydroisoindol-2-yl)-5,6,7,8-tetrahydronaphthalen-2-yl] ester | 30 g, 91% | O=C1N(C(C2=CC=CC=C12)=O)C1CC=2C=CC(=CC2CC1)OC(N(C)C)=S | C21H20N2O3S
